US05360802
Step 1: 1-(Isopropylcarbonylaminosulphonyl)-3-nitrobenzene
To a mixture of isobutyric acid (4.6 ml, 0.05 mol), 3-nitrophenyl sulphonamide (10.1 g, 0.05 mol) and 4-dimethylaminopyridine (6.1 g, 0.05 mol) in anhydrous dichloromethane (400 ml) under an atmosphere of nitrogen was added 1-[3-(dimethylamino)propyl]-3-ethyl carbodiimide hydrochloride (9.6 g 0.05 mol). The mixture was stirred at ambient temperature for 20 h. The mixture was extracted with 1M NaOH and tile separated aqueous phase was acidified using 5M HCl. The solid which precipitated was collected by filtration, washed with water and dried under vacuum to afford the title compound (8.16 g, 60%) as a colourless powder. mp 136°-138° C. 1H NMR (360 MHz, D6 -DMSO) δ 0.95 (6H, d, J=6.8 Hz), 2.48 (1H, septet, J=6.8 Hz), 7.95 (1H, dd, J=8.1 and 8.1 Hz), 8.33 (1H, dd, J=8.0 and 1.4 Hz), 8.54 (1H, dd, J=8.0, 1.4 Hz), 8.60 (1H, dd, J=1.4 and 1.4 Hz), 12.38 (1H, brs).

reactant | isobutyric acid | 0.05 mol, 4.6 ml | C(C(C)C)(=O)O | C4H8O2
reactant | 3-nitrophenyl sulphonamide | 0.05 mol, 10.1 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)N | C6H6N2O4S
reactant | 1-[3-(dimethylamino)propyl]-3-ethyl carbodiimide hydrochloride | 0.05 mol, 9.6 g | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylaminopyridine | 0.05 mol, 6.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 1-(Isopropylcarbonylaminosulphonyl)-3-nitrobenzene | 8.16 g, 60% | C(C)(C)C(=O)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C10H12N2O5S
